US07135466B2
3-(2-Methoxyphenoxy)propyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}carbamate
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline (70 mg) was added to toluene/triethylamine=10/1 (7 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (97 mg) in methylene chloride was then added to the solution, and the mixture was heated under reflux for 15 min. Subsequently, 3-(2-methoxyphenoxy)-1-propanol (60 mg) was added thereto, and the mixture was further stirred with heating under reflux for 2 hr. After the completion of the reaction, the reaction solution was allowed to cool to room temperature before distilled water was added thereto. The mixture was subjected to separatory extraction with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution and saturated brine. The washed solution was dried over sodium sulfate and was concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (77 mg, yield 63%).

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethylaniline | 70 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
reactant | toluene triethylamine | C1(=CC=CC=C1)C.C(C)N(CC)CC
reactant | triphosgene | 97 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-(2-methoxyphenoxy)-1-propanol | 60 mg | COC1=C(OCCCO)C=CC=C1 | C10H14O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2-Methoxyphenoxy)propyl N-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}carbamate | 77 mg, yield 63% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)NC(OCCCOC1=C(C=CC=C1)OC)=O)C)C | C30H32N2O7
